US04889869
(a) 2-benzyl-3-tert.-butylthio-propionic acid
0.5 g of 2-benzyl-3-tert.-butylthio-propionic acid ethyl ester is dissolved in 5 ml of THF, and 3.2 ml of water and 0.9 ml of 2N potassium hydroxide solution are added thereto. The mixture is stirred overnight at room temperature, neutralised with 0.9 ml of 2N hydrochloric acid and concentrated by evaporation. The residue is purified by flash chromatography on 30 g of silica gel 60 (eluant H). Yellow oil, 1H-NMR (DMSO-d6): 1.23 ppm (s, 9H); 2.55-2.9 (m, 5H); 7.15-7.3 (m, 5H); 12.4 (s, 1H).

reactant | 2-benzyl-3-tert.-butylthio-propionic acid ethyl ester | 0.5 g | C(C)OC(C(CC(C)(C)C)CC1=CC=CC=C1)=S | C16H24OS
reactant | water | 3.2 ml | O | H2O
reactant | potassium hydroxide | 2N, 0.9 ml | [OH-].[K+]
reactant | hydrochloric acid | 2N, 0.9 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-benzyl-3-tert.-butylthio-propionic acid | C(C1=CC=CC=C1)C(C(=S)O)CC(C)(C)C | C14H20OS
